US08648068B2
4-[(4-{4-Fluoro-2-[(S)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl)-amino]-azepane-1-carboxylic acid tert-butyl ester
Prepared analogously to example 1.4 from 4-{4-fluoro-2-[(S)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and 4-amino-azepane-1-carboxylic acid tert-butyl ester.

reactant | 4-{4-fluoro-2-[(S)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2COCC2 | C18H16FN3O4S
reactant | 4-amino-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CCC1)N | C11H22N2O2
product | 4-[(4-{4-Fluoro-2-[(S)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl)-amino]-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CCC1)NC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2COCC2)S1)C | C29H36FN5O5S
